US04775668
Compound (I) wherein R2 is derived from compound (III) wherein n is 1, m is 2 and Q is hydrogen is formed on reacting benzylamine rather than monomethylamine with compound 16 in Scheme III. Proceeding as in Scheme III, 8-benzyl-3,8-diazabicyclo[4.1.1]octane is formed which is coupled with compound (II) and then debenzylated by catalytic hydrogenation, as before.

reactant | hydrogen | [H][H] | H2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | monomethylamine | CN | CH5N
product | 8-benzyl-3,8-diazabicyclo[4.1.1]octane | C(C1=CC=CC=C1)N1C2CNCCC1C2 | C13H18N2
